US06127541
4-(4-Methyl-1-piperazinyl)benzonitrile
According to a similar manner to that in Reference Example 12, the title compound was synthesized from 4-fluorobenzonitrile and 1-methylpiperazine.

reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 4-(4-Methyl-1-piperazinyl)benzonitrile | CN1CCN(CC1)C1=CC=C(C#N)C=C1 | C12H15N3
